US05760259
6-(p-Pentylphenyl)-5-hexenoic acid
This compound was synthesized from p-pentylbenzaldehyde (3.52 g, 20 mmol, prepared from p-pentylbenzoyl chloride and lithium tri(t-butoxy)aluminum hydride) and 4-carboxybutyltriphenylphosphonium bromide (8.86 g, 20 mmol) in THF (100 mL) by a Wittig reaction. Kugelrohr distillation (bp 147°-151° C./0.05 torr) afforded the product (2.49 g, 48%). IR: 3400-2500, 1725 cm-1 ; 1H-NMR: 0.90 (t, 3H), 1.28 (m, 6H), 1.82 (m, 2H), 1.37 (m, 4H), 2.57 (t, 2H), 5.55+6.10 (m, 1H), 6.38 (m, 1H), 7.10 (m, 4H), 10.50 (bs, 1H). Anal. Calcd. for C17H24O2 : C, 78.42, H, 9.29%; Found: C, 78.22, H, 9.27%. Z:E=35:65.

reactant | p-pentylbenzaldehyde | 20 mmol, 3.52 g | C(CCCC)C1=CC=C(C=O)C=C1 | C12H16O
reactant | 4-carboxybutyltriphenylphosphonium bromide | 20 mmol, 8.86 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-(p-Pentylphenyl)-5-hexenoic acid | 2.49 g, 48% | C(CCCC)C1=CC=C(C=C1)C=CCCCC(=O)O | C17H24O2
